US05089633
Preparation of 4-chloro-7-phenylthiocarbamoylamino-3-ethoxyisocoumarin
This compound was preparation by reaction of 7-amino-4-chloro-3-ethoxyisocoumarin with phenyl isothiocyanate at r.t. in THF for 24 hrs. The product was obtained as yellow solid: yield 55%, m.p. 176°-177° C. (dec.); TLC, Rf =0.76 (CH3Cl:MeOH=9:1), MS m/e=374 (M+). Anal. Calcd. for C18H15N2O3ClS: C, 57.62; H, 4.00. Found: C, 57.77; H, 4.04.

reactant | 7-amino-4-chloro-3-ethoxyisocoumarin | NC1=CC=C2C(=C(OC(=O)C2=C1)OCC)Cl | C11H10ClNO3
reactant | phenyl isothiocyanate | C1(=CC=CC=C1)N=C=S | C7H5NS
reactant | CH3Cl | CCl | CH3Cl
reactant | MeOH | CO | CH4O
solvent | THF | C1CCOC1 | C4H8O
product | 4-chloro-7-phenylthiocarbamoylamino-3-ethoxyisocoumarin | yield 55% | ClC1=C(OC(=O)C2=CC(=CC=C12)NC(NC1=CC=CC=C1)=S)OCC | C18H15ClN2O3S
